US06265411B1
A solution of 5-nitrooxindole (1.26 g, 7.1 mmol), (prepared as described for the starting material in Example 21), in THF (10 ml) was added dropwise to sodium hydride (284 mg, 7.1 mmol, prewashed with THF) in THF (15 ml). The mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (600 mg, 1.8 mmol, (prepared as described for the starting material in Example 5), in THF (10 ml) and DMF (3 ml) was added dropwise. The mixture was stirred for 30 minutes at ambient temperature, then heated at 75° C. for 1.5 hours. DMF (4 ml) was added and the mixture stirred for 12 hours at ambient temperature. The solvent was removed by evaporation, the residue was partitioned between ethyl acetate and water and the aqueous layer was adjusted to pH8 with 2M hydrochloric acid. The precipitated product was collected by filtration, washed with water and dried under vacuum. The solid was dissolved in a mixture of DMF and dilute hydrochloric acid (pH2) and was purified on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with a gradient of methanol and dilute hydrochloric acid (pH2). The purified solid was dissolved in methanol and 7M ethanolic hydrogen chloride (1.5 ml) was added. The volatiles were removed by evaporation and the solid residue was triturated with a mixture of methanol and ether. The solid was collected by filtration and dried under vacuum to give 6-methoxy-7-(3-morpholinopropoxy)-4-(5-nitrooxindol-3-yl)-quinazoline hydrochloride (275 mg, 29%).

reactant | 5-nitrooxindole | 7.1 mmol, 1.26 g | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | sodium hydride | 7.1 mmol, 284 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(5-nitrooxindol-3-yl)-quinazoline hydrochloride | 275 mg, 29% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C24H25N5O6.ClH/c1-33-20-12-17-19(13-21(20)35-8-2-5-28-6-9-34-10-7-28)25-14-26-23(17)22-16-11-15(29(31)32)3-4-18(16)27-24(22)30;/h3-4,11-14,22H,2,5-10H2,1H3,(H,27,30);1H
